US07713993B2
(1) Synthesis of 2-(4-fluorophenyl)-1-methoxycarbonyl-2-oxoethyl 5-chloro-2-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}valerate
IPEA (1.9 mL) was added to a solution of 5-chloro-2-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}valeric acid trifluoroacetic acid salt (1.53 g) and methyl 2-chloro-3-(4-fluorophenyl)-3-oxopropionate (CAS #160727-96-8, 624 mg) in DMF (5 mL), and the reaction solution was stirred at room temperature for four hours. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane:ethyl acetate=1:1->ethyl acetate) to obtain 817 mg of the title compound. The property values of the compound are as follows.

reactant | IPEA | 1.9 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-chloro-2-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}valeric acid trifluoroacetic acid salt | 1.53 g | FC(C(=O)O)(F)F.ClCCC\C(\C(=O)O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC
reactant | methyl 2-chloro-3-(4-fluorophenyl)-3-oxopropionate | 624 mg | ClC(C(=O)OC)C(=O)C1=CC=C(C=C1)F | C10H8ClFO3
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-fluorophenyl)-1-methoxycarbonyl-2-oxoethyl 5-chloro-2-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}valerate | 817 mg | ClCCC\C(\C(=O)OC(C(=O)C1=CC=C(C=C1)F)C(=O)OC)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C27H26ClFN2O6
